US06605624B1
Preparation of Methyl 2-(Difluoromethyl)-4-cyclobutyl-5-(1-pyrrolyl)-6-(trifluoromethyl)-3-pyridinecarboxylate (Compound 70)
A solution of 1.62 g (5 mmol) of methyl 5-amino-2-(difluoromethyl) -4-cyclobutyl-6- (trifluoromethyl)-3-pyridinecarboxylate (example A-2 of U.S. Pat. No. 5,114,465) and 0.8 g (6 mmol) of 2,5-dimethoxy-tetrahydrofuran in 10 ml of acetic acid as heated at 70° C. for 2.5 h. The reaction mixture was then diluted with 100 ml of water and extracted with ethyl acetate. The combined organic layers were washed with saturated sodium bicarbonate (3×100 ml), dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography on silica gel (10% EtOAc in hexane) to give the product, mp 70-71° C.

reactant | methyl 5-amino-2-(difluoromethyl) -4-cyclobutyl-6- (trifluoromethyl)-3-pyridinecarboxylate | 5 mmol, 1.62 g | NC=1C(=C(C(=NC1C(F)(F)F)C(F)F)C(=O)OC)C1CCC1 | C13H13F5N2O2
reactant | 2,5-dimethoxy-tetrahydrofuran | 6 mmol, 0.8 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | Methyl 2-(Difluoromethyl)-4-cyclobutyl-5-(1-pyrrolyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | FC(C1=NC(=C(C(=C1C(=O)OC)C1CCC1)N1C=CC=C1)C(F)(F)F)F | C17H15F5N2O2
